US06150373
A mixture of 250 ml (0.83 mmol) of 3-tert.butyl-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 600 mg (2.9 mmol) of 4-(2-(diethylamino)ethoxy)aniline was heated at 180° C. for 35 minutes and then cooled. The residue was chromatographed on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated. The residue was evaporated with toluene and then dissolved in 30 ml of dichloromethane. The solution was washed with 20 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. The residue was triturated in hexane, filtered off and dried to give 70 mg (21%) of 3-tert.butyl-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as an off-white solid of melting point 130° C.

reactant | 3-tert.butyl-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.83 mmol, 250 ml | C(C)(C)(C)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C12H18N4O3S
reactant | 4-(2-(diethylamino)ethoxy)aniline | 2.9 mmol, 600 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-tert.butyl-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 70 mg, 21% | C(C)(C)(C)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C23H34N6O2
